US07208493B2
6-{[(Naphthalen-1-yl-methyl)-amino]-methyl}-2,4-pteridinediamine
To a solution of 6-bromomethyl-2,4-pteridinediamine hydrobromide (51 mg, 0.2 mmol) in anhydrous N,N dimethylacetamide was added 1-aminomethyl-naphthalene (31.67 ul, 0.22 mmol). The reaction mixture was stirred at 50° C. overnight. The crude product was poured into saturated bicarbonate solution. The resulted precipitate was collected and purified by preparative HPLC. 9 mg product was obtained. Yield: 15%; 1H NMR(500 MHz, DMSO-d6): δ 4.6479(s, 2H ), 4.7893(s, 2H), 7.575–7.6244(m, 3H), 7.74232–7.7570(d, J=6.91 Hz, 1H), 7.9935–8.0276(dd, J1=8.06 Hz, J2 =8.995 Hz, 2H), 8.1670–8.1831(d, J=8.04 Hz, 1H), 8.8430(s, 1H); ESI-MS: m/z 332 (M++1)

reactant | 6-bromomethyl-2,4-pteridinediamine hydrobromide | 0.2 mmol, 51 mg | Br.BrCC=1N=C2C(=NC(=NC2=NC1)N)N
reactant | 1-aminomethyl-naphthalene | 0.22 mmol, 31.67 ul | NCC1=CC=CC2=CC=CC=C12 | C11H11N
reactant | bicarbonate | C([O-])(O)=O
solvent | N,N dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 6-{[(Naphthalen-1-yl-methyl)-amino]-methyl}-2,4-pteridinediamine | 9 mg, Yield: 15% | C1(=CC=CC2=CC=CC=C12)CNCC=1N=C2C(=NC(=NC2=NC1)N)N | C18H17N7
